US04186012
2.7 ml of bromine are added to 9.1 g of 1-phenylpropylidene-propanedinitrile and 0.2 g of acetophenone in 100 ml of benzene and the mixture is stirred at room temperature for 1.5 hours. The residue obtained after evaporation under vacuum is recrystallised from 25 ml of ethanol. 11,7 g of 2-bromo-1-phenyl-propylidene-propanedinitrile melting at 103° to 104° C. are obtained.

reactant | bromine | 2.7 ml | BrBr | Br2
reactant | 1-phenylpropylidene-propanedinitrile | 9.1 g | C1(=CC=CC=C1)C(CC)=C(C#N)C#N | C12H10N2
reactant | acetophenone | 0.2 g | C(C)(=O)C1=CC=CC=C1 | C8H8O
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
product | 2-bromo-1-phenyl-propylidene-propanedinitrile | 11,7 g | BrC(C(C1=CC=CC=C1)=C(C#N)C#N)C | C12H9BrN2
